US07888366B2
To a cold (ice water) suspension of sodium hydride (316 mg; 7.9 mmol) in anhydrous DMF (10 mL) is added a solution of 3-iodobenzyl alcohol (1.85 g; 7.9 mmol) in anhydrous DMF (5 mL) over 30 minutes. After allowing to room temperature over 30 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (1.0 g; 7.2 mmol) in anhydrous DMF (15 mL), and allowed to room temperature over 2 hours. The reaction mixture is poured into ice water with vigorous stirring and refrigerated overnight. The resulting solid is filtered, washed with water, and dried under vacuum at 30° C. overnight to give 1.86 grams of 2-fluoro-6-(3-iodobenzyloxy)-benzonitrile.

reactant | sodium hydride | 7.9 mmol, 316 mg | [H-].[Na+]
reactant | 3-iodobenzyl alcohol | 7.9 mmol, 1.85 g | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | 2,6-difluorobenzonitrile | 7.2 mmol, 1.0 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-(3-iodobenzyloxy)-benzonitrile | 1.86 grams | FC1=C(C#N)C(=CC=C1)OCC1=CC(=CC=C1)I | C14H9FINO
